US04826866
5-Methyl-3-[(1-methylpropyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride [1:1]
A stirred solution of 5.1 g (0.035 mole) of 4-(2-butyl)-3-thiosemicarbazide in 40 mL of absolute ethanol was treated with 5.7 g (0.035 mole) of ethyl 2-chloroacetoacetate and stirred at ambient temperature for 3 hr. The mixture was treated with 20 mL of 2N ethanolic hydrogen chloride, heated at reflux for 1 hr and stirred for ~16 hr at ambient temperature. The reaction mixture after filtering and concentrating in vacuo gave a crude orange solid. A second reaction mixture was prepared with 8.0 g (0.054 mole) of crude 4-(2-butyl)-3-thiosemicarbazide, 50 mL of absolute ethanol, 8.9 g (0.054 mole) of ethyl 2-chloroacetoacetate, and 25 mL of 2N ethanolic hydrogen chloride as described above and gave a crude orange solid. The TLC of both crude products (10% methanol/benzene; silica gel) were identical. Recrystallization of the first batch from acetone/isopropyl ether gave 4 g of fine white crystals, mp 147°-148.5° C. Recrystallization of the second batch from benzene/ligroin gave 2.5 g of pale yellow crystalline product, mp 146°-148.5° C. The 2 solids were combined (6.5 g) and recrystallized from 200 mL of acetone/isopropyl ether (3:1) to give 3.6 g of white fluffy crystals, mp 147°-149° C.

reactant | 4-(2-butyl)-3-thiosemicarbazide | 0.035 mole, 5.1 g | CC(CC)NC(NN)=S | C5H13N3S
reactant | ethyl 2-chloroacetoacetate | 0.035 mole, 5.7 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 20 mL | Cl | ClH
reactant | 4-(2-butyl)-3-thiosemicarbazide | 0.054 mole, 8.0 g | CC(CC)NC(NN)=S | C5H13N3S
reactant | ethyl 2-chloroacetoacetate | 0.054 mole, 8.9 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 25 mL | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-Methyl-3-[(1-methylpropyl)amino]-1H-pyrazole-4-carboxylic acid, ethyl ester, hydrochloride | 4 g | Cl.CC1=C(C(=NN1)NC(CC)C)C(=O)OCC | InChI=1S/C11H19N3O2.ClH/c1-5-7(3)12-10-9(8(4)13-14-10)11(15)16-6-2;/h7H,5-6H2,1-4H3,(H2,12,13,14);1H
